US05612352
A solution of sec-butyl lithium in hexane (1.1M, 67.38 ml) was added to a solution of 4-bromobiphenyl (14.38 g) in dry tetrahydrofuran (128 ml) over a period of 1.5 hours under an atmosphere of argon at -78° C. The reaction mixture was stirred for 30 minutes at -78° C. A solution of 3-cyanoquinuclidine (5.6 g) in dry tetrahydrofuran was added to the reaction mixture whilst maintaining the temperature at -78° C. The reaction mixture was stirred for a further period of 16 hours during which period the reaction mixture was allowed to warm to ambient temperature. 2M aqueous hydrogen chloride solution (50 ml) was added to the reaction mixture and the mixture was stirred for 1 hour. The aqueous phase was separated, washed with diethyl ether, basified with dilute aqueous sodium hydroxide solution and extracted with ethyl acetate. The ethyl acetate extract was dried (MgSO4) and evaporated to give a residue which was purified by flash column chromatography on silica gel using a 95:5 (v/v) mixture of methanol/ammonia (density 0.88 g/cm3) as eluant. The residue was dissolved in ethanol and acidified with a saturated solution of ethanolic hydrogen chloride. The mixture was evaporated to dryness and hexane was added to give 3-(4-phenylbenzoyl)quinuclidine hydrogen chloride as a solid (970 mg), m.p. 255.6° C.; microanalysis, found: C, 71.4; H, 6.7; N, 4.4; Cl, 9.8%; C20H21NO. HCl 1/2 H2O. requires: C, 71.34; H, 6.8; N, 4.2; Cl, 10.5%; NMR (CDCl3): 1.7-1.85 (2H, m), 2.0-2.2 (2H, m), 2.2-2.45 (1H, m), 2.45-2.6 (1H, m), 3.2-3.5 (3H, m), 3.5-3.7 (2H, m), 3.9-4.2 (2H, m), 7.35-7.55 (3H, m), 7.55-7.65 (2H, m), 7.65-7.75 (2H, d), 8.0-8.1 (2H, d) and 12.26 (1H, s).

reactant | sec-butyl lithium | C(C)(CC)[Li]
reactant | 4-bromobiphenyl | 14.38 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | 3-cyanoquinuclidine | 5.6 g | C(#N)C1CN2CCC1CC2 | C8H12N2
reactant | hydrogen chloride | 2M, 50 ml | Cl | ClH
reactant | tetrahydrofuran | 128 ml | O1CCCC1 | C4H8O
solvent | hexane | 1.1M, 67.38 ml | CCCCCC | C6H14
product | 3-(4-phenylbenzoyl)quinuclidine hydrogen chloride | 970 mg | Cl.C1(=CC=CC=C1)C1=CC=C(C(=O)C2CN3CCC2CC3)C=C1 | InChI=1S/C20H21NO.ClH/c22-20(19-14-21-12-10-17(19)11-13-21)18-8-6-16(7-9-18)15-4-2-1-3-5-15;/h1-9,17,19H,10-14H2;1H
